US09315487B2
6-(((2S,4R)-1-Acetyl-2-methyl-6-((trimethylsilyl)ethynyl)-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile (for a preparation see Intermediate 10) (1.69 g, 4.20 mmol) was treated with tetrabutylammonium fluoride (1M in THF, 4.62 ml, 4.62 mmol) and THF (18 ml) and the solution stirred at ambient conditions for 30 min. The reaction was concentrated in vacuo, diluted with water (25 ml) and extracted with DCM (3×30 ml). The organics were combined, being dried (hydrophobic frit) and the solvent evaporated in vacuo. The residue was purified by chromatography on a silica cartridge (100 g) eluting with an ethyl acetate/cyclohexane gradient (0-75%). The appropriate fractions were collected and the solvent evaporated in vacuo to give 6-(((2S,4R)-1-acetyl-6-ethynyl-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile (990 mg) as a yellow foam. LCMS (formate), Rt 0.92 min, MH+ 331.

reactant | 6-(((2S,4R)-1-Acetyl-2-methyl-6-((trimethylsilyl)ethynyl)-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C#C[Si](C)(C)C)NC1=NC=C(C#N)C=C1)C | C23H26N4OSi
reactant | tetrabutylammonium fluoride | 4.62 mmol, 1M, 4.62 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 18 ml | C1CCOC1 | C4H8O
product | 6-(((2S,4R)-1-acetyl-6-ethynyl-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile | 990 mg | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C#C)NC1=NC=C(C#N)C=C1)C | C20H18N4O
